US09056859B2
To a solution of ethyl 7-bromo-1-benzofuran-3-carboxylate (1.0 g, 3.7 mmol) in 20 mL of MeOH/THF/H2O (2/211) was added LiOH H2O (777 mg, 18.5 mmol), and the mixture was stirred at ambient temperature overnight. The solvents were removed under vacuum, and the residue was added 10 mL of water and extracted with ether (100 mL). The aqueous layer was then acidified with 4 N HCl to pH=3 in ice bath, and extracted with EtOAc. The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated to give 7-bromo-1-benzofuran-3-carboxylic acid.

reactant | ethyl 7-bromo-1-benzofuran-3-carboxylate | 3.7 mmol, 1.0 g | BrC1=CC=CC=2C(=COC21)C(=O)OCC | C11H9BrO3
reactant | LiOH H2O | 18.5 mmol, 777 mg | O[Li].O
solvent | MeOH THF H2O | 20 mL | CO.C1CCOC1.O
product | 7-bromo-1-benzofuran-3-carboxylic acid | BrC1=CC=CC=2C(=COC21)C(=O)O | C9H5BrO3
